US06281363B1
A solution of 5.0 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methylvaleric acid in 150 ml of iso-propyl alcohol was hydrogenated in the presence of 0.500 g of 5% palladium-on-carbon for 1 hour. The mixture was filtered and evaporated to give 4.8 g of 2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-4-methylvaleric acid in the form of a yellow oil.

reactant | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methylvaleric acid | 5.0 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)O)CC(C)C | C21H30O4
solvent | iso-propyl alcohol | 150 ml | C(C)(C)O | C3H8O
catalyst | palladium-on-carbon | 0.500 g | [Pd] | Pd
product | 2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-4-methylvaleric acid | 4.8 g | C(C)(C)(C)OC(=O)[C@@H](CCCC1=CC=CC=C1)[C@H](C(=O)O)CC(C)C | C21H32O4
